US04883609
21 g of 4-bromo-2,6-difluoroaniline, 11 g of copper (I) cyanide, and 70 ml of N-methyl-2-pyrrolidone were placed in a flask for three hours to form a reaction mixture. The reaction mixture was poured into a solution of 41 g of iron (III) chloride mixed with 13 ml of concentrated hydrochloric acid and 50 ml of water. The mixture was extracted with chloroform and washed with water and 10% potassium hydroxide and the chloroform was removed by distillation. The residue was distilled under reduced pressure (bp 90° to 110° C. at 4 mmHg) and recrystallized with a mixture of hexane and chloroform to yield 8.9 g of 4-cyano-2,6-difluoroaniline.

reactant | 4-bromo-2,6-difluoroaniline | 21 g | BrC1=CC(=C(N)C(=C1)F)F | C6H4BrF2N
reactant | copper (I) cyanide | 11 g | [Cu]C#N
reactant | N-methyl-2-pyrrolidone | 70 ml | CN1C(CCC1)=O | C5H9NO
reactant | hydrochloric acid | 13 ml | Cl | ClH
catalyst | iron (III) chloride | 41 g | [Fe](Cl)(Cl)Cl
solvent | water | 50 ml | O | H2O
product | 4-cyano-2,6-difluoroaniline | 8.9 g | C(#N)C1=CC(=C(N)C(=C1)F)F | C7H4F2N2
